US08357694B2
6-(2,4-dichlorophenyl)-N-(4-(2-(piperidin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride
This was synthesized by using 4-(6-(2,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate, piperidine and triethylamine as described in general procedure 2 to afford the desired product. M.p.=225-230° C. 1H NMR (DMSO) 400 MHz δ 10.05 (bs, 1H), 9.66 (s, 1H), 8.36 (d, J=6.4 Hz, 1H), 8.32 (s, 1H), 7.83-7.80 (m, 2H), 7.72-7.70 (m, 1H), 7.57-7.46 (m, 2H), 7.30-7.22 (m, 3H), 7.05 (d, J=7.6 Hz, 1H), 6.76 (d, J=8.0 Hz, 1H), 4.80-4.75 (m, 1H), 3.53-3.48 (m, 2H), 3.27-3.07 (m, 4H), 3.03-2.86 (m, 4H), 1.86-1.69 (m, 5H), 1.42-1.38 (m, 1H). LCMS 529 [M+H]. Calc. for C31H30Cl2N4.2.1 Hydrochloric acid: C, 61.44; H, 5.34; N, 9.24. Found C, 61.45; H, 5.32; N, 9.31.

reactant | 4-(6-(2,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C(C(CC2C=N1)C1=C(C=C(C=C1)Cl)Cl)C=CC=C3 | C27H23Cl2N3O3S
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 6-(2,4-dichlorophenyl)-N-(4-(2-(piperidin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride | Cl.ClC1=C(C=CC(=C1)Cl)C1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC=C(C=C2)CCN2CCCCC2 | InChI=1S/C31H30Cl2N4.ClH/c32-23-10-13-26(29(33)19-23)28-18-22-20-34-31(36-30(22)27-7-3-2-6-25(27)28)35-24-11-8-21(9-12-24)14-17-37-15-4-1-5-16-37;/h2-3,6-13,19-20,28H,1,4-5,14-18H2,(H,34,35,36);1H
